US08664379B2
To a solution of 2-(2-oxo-6-(4-(trifluoromethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)acetic acid (34.9 mg, 0.10 mmol) in tetrahydrofuran (1 mL) was added sodium bicarbonate (8.4 mg, 0.10 mmol) and water (2 mL). The reaction mixture was stirred at room temperature for 1 hour then freeze dried, to give sodium 2-(2-oxo-6-(4-(trifluoromethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)acetate.

reactant | 2-(2-oxo-6-(4-(trifluoromethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)acetic acid | 0.10 mmol, 34.9 mg | O=C1N(C2=CC=C(C=C2CC1)C1=CC=C(C=C1)C(F)(F)F)CC(=O)O | C18H14F3NO3
reactant | sodium bicarbonate | 0.10 mmol, 8.4 mg | C([O-])(O)=O.[Na+]
reactant | water | 2 mL | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | sodium 2-(2-oxo-6-(4-(trifluoromethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)acetate | O=C1N(C2=CC=C(C=C2CC1)C1=CC=C(C=C1)C(F)(F)F)CC(=O)[O-].[Na+] | InChI=1S/C18H14F3NO3.Na/c19-18(20,21)14-5-1-11(2-6-14)12-3-7-15-13(9-12)4-8-16(23)22(15)10-17(24)25;/h1-3,5-7,9H,4,8,10H2,(H,24,25);/q;+1/p-1
